US06320050B1
A solution of nickel(II) chloride hexahydrate (36.6 mg, 0.154 mmol) and (E)-3-cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-acrylic acid methyl ester (302 mg, 0.77 mmol) in methanol (8 mL) was cooled to 0° C. and then treated with sodium borohydride (87 mg, 2.29 mmol) in four portions. After the addition, the black reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 15 h. The black solid was filtered using filter paper and washed with methanol. The combined solvents were concentrated in vacuo, and the residue was diluted with ethyl acetate (50 mL). The organic layer was washed successively with a 3N aqueous hydrochloric acid solution (1×50 mL), a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford racemic 3-cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid methyl ester (280 mg, 93%) as a viscous oil: EI-HRMS m/e calcd for C18H23F3O4S (M+) 392.1269, found 392.1276.

reactant | (E)-3-cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-acrylic acid methyl ester | 0.77 mmol, 302 mg | COC(\C(=C\C1CCCCC1)\C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F)=O | C18H21F3O4S
reactant | sodium borohydride | 2.29 mmol, 87 mg | [BH4-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
catalyst | nickel(II) chloride hexahydrate | 0.154 mmol, 36.6 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | racemic 3-cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid methyl ester | 280 mg, 93% | COC(C(CC1CCCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F)=O | C18H23F3O4S
